US07863310B2
1-Isobutyl-2-amino-6-formylbenzimidazole
Add phenyllithium (19.4 mL, 33 mmol, 1.7M in cyclohexane/diethyl ether) dropwise over 20 minutes to a solution of 1-isobutyl-2-amino-6-bromobenzimidazole (2.68 g, 10 mmol) in tetrahydrofuran (50 mL) at −78° C. Stir 40 minutes after addition is complete and then add tert-butyllithium (17.6 mL, 30 mmol, 1.7M in pentane) dropwise over 20 minutes. Stir 1.5 hours after addition is complete and then add dimethylformamide (5 mL) dropwise over 5 minutes. Warm reaction mixture to 0° C. over 1 hour, and then to room temperature over 20 minutes. Dilute reaction mixture with saturated aqueous ammonium chloride (100 mL), and then extract well with ethyl acetate. Combine ethyl acetate extracts, wash sequentially with water and saturated aqueous sodium chloride, dry over sodium sulfate and concentrate under reduced pressure. Slurry the residue in diethyl ether, filter and dry to provide 1.58 g of the title compound.

reactant | phenyllithium | 33 mmol, 1.7M, 19.4 mL | C1(=CC=CC=C1)[Li]
reactant | 1-isobutyl-2-amino-6-bromobenzimidazole | 10 mmol, 2.68 g | C(C(C)C)N1C(=NC2=C1C=C(C=C2)Br)N | C11H14BrN3
reactant | tert-butyllithium | 30 mmol, 1.7M, 17.6 mL | C(C)(C)(C)[Li]
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-Isobutyl-2-amino-6-formylbenzimidazole | 1.58 g | C(C(C)C)N1C(=NC2=C1C=C(C=C2)C=O)N | C12H15N3O
